US06825351B2
Reaction of N-(quinol-7-yl)acetamide (33 mg, 0.177 mmol) using the general procedure for small scale hydrogenations (workup with NaOH in place of saturated NaHCO3) provided N-(5,6,7,8-tetrahydroquinolin-7-yl)acetamide (8.3 mg, 25%): 1H NMR □ 1.72-1.83 (m, 1H), 1.99 (s, 3H), 2.04-2.20 (m, 2H), 2.72-2.95 (m, 3H), 3.25 (dd, 1H, J=5, 17 Hz), 4.29-4.40 (m, 1H), 5.72 (br s, 1H), 7.05 (dd, 1H, J=4, 8 Hz), 7.38 (d, 1H, J=8 Hz), 8.35 (d, 1H, J=4 Hz); 13C NMR □ 23.9, 26.5, 28.7, 39.0, 45.6, 121.9, 131.4, 137.0, 147.7, 154.8, 170.1; MS m/z: 213 (M+Na+). N-(1,2,3,4-tetrahydroquinolin-7-yl)acetamide also was isolated (6.5 mg, 20%): 1H NMR □ 1.24-1.28 (s, 1H), 1.87-1.95 (m, 2H), 2.70 (dd, 2H, J=6, 6 Hz), 3.28 (dd, 2H, J=5, 5 Hz), 6.46 (d, 1H, J=8 Hz), 6.84 (d, 1H, J=8 Hz), 6.93 (s, 1H), 7.03 (br s, 1H); 13C NMR □ 22.1, 24.7, 26.6, 37.9, 105.6, 108.3, 117.6, 129.6, 136.5, 145.1, 168.1; MS m/z: 213 (M+Na+).

reactant | N-(quinol-7-yl)acetamide | 0.177 mmol, 33 mg | N1=CC=CC2=CC=C(C=C12)NC(C)=O | C11H10N2O
reactant | NaOH | [OH-].[Na+]
product | N-(5,6,7,8-tetrahydroquinolin-7-yl)acetamide | 8.3 mg, 25% | N1=CC=CC=2CCC(CC12)NC(C)=O | C11H14N2O
